US04241071
2.0 g of 1-methyl-4-(α-phenyl-2-tolyl)-4-piperidinol, Example 1, is treated with 10 ml of benzoyl chloride with stirring and cooling. The reaction solution is diluted with 20 ml of ether, stirred for two hours and the resulting precipitate collected by suction filtration. The filter cake is washed well with ether and dried in vacuo at 40° C. over sodium hydroxide pellets. The dried filter cake is recrystallized twice from a chloroform-ether mixture to give colorless crystals, mp 197°-198° C. of 4-benzoyloxy-1-methyl-4(α-phenyl-2-tolyl)piperidine hydrochloride.

reactant | 1-methyl-4-(α-phenyl-2-tolyl)-4-piperidinol | 2.0 g | CN1CCC(CC1)(O)C1=C(C=CC=C1)CC1=CC=CC=C1 | C19H23NO
reactant | benzoyl chloride | 10 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | ether | 20 ml | CCOCC | C4H10O
product | 4-benzoyloxy-1-methyl-4(α-phenyl-2-tolyl)piperidine hydrochloride | Cl.C(C1=CC=CC=C1)(=O)OC1(CCN(CC1)C)C1=C(C=CC=C1)CC1=CC=CC=C1 | InChI=1S/C26H27NO2.ClH/c1-27-18-16-26(17-19-27,29-25(28)22-12-6-3-7-13-22)24-15-9-8-14-23(24)20-21-10-4-2-5-11-21;/h2-15H,16-20H2,1H3;1H
